US07985753B2
(6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-[6-(2,4-dimethoxy-pyrimidin-5-yl)-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl]-methanone
In close analogy to the procedure described in Example 1, 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 6-(2,4-Dimethoxy-pyrimidin-5-yl)-1-methyl-1,2,3,4-tetrahydro-isoquinoline to provide the title compound in moderate yield.

reactant | 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 6-(2,4-Dimethoxy-pyrimidin-5-yl)-1-methyl-1,2,3,4-tetrahydro-isoquinoline | COC1=NC=C(C(=N1)OC)C=1C=C2CCNC(C2=CC1)C | C16H19N3O2
product | (6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-[6-(2,4-dimethoxy-pyrimidin-5-yl)-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl]-methanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC=C(C=C1CC2)C=2C(=NC(=NC2)OC)OC)C | C23H21ClN6O3
